US08314088B2
(6S)-8-benzyl-3-chloro-6-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
To a solution of (2S)-1-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}propan-2-ol (3.48 g) in THF (50 mL) was added sodium hydride (513 mg) under ice-cooling, and the mixture was stirred for 2 hr under ice-cooling. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 5→20% ethyl acetate/hexane) to give the title compound (1.60 g, 52%) as a pale-yellow oil.

reactant | (2S)-1-{benzyl[(3,5-dichloropyrazin-2-yl)methyl]amino}propan-2-ol | 3.48 g | C(C1=CC=CC=C1)N(C[C@H](C)O)CC1=NC=C(N=C1Cl)Cl | C15H17Cl2N3O
reactant | sodium hydride | 513 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6S)-8-benzyl-3-chloro-6-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 1.60 g, 52% | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)Cl)C | C15H16ClN3O
